US07375138B2
b) 2-Methyl-5-pentafluorosulfanylaniline
2.0 g of 1-dichloromethyl-2-nitro-4-pentafluorosulfanylbenzene were dissolved in 25 ml of DME and, after addition of 200 mg of Pd/C (5%) and 100 ml of a saturated aqueous NaHCO3 solution, hydrogenated under 5 bar of H2 for 54 hours. The catalyst was then removed by filtration and the reaction solution was extracted 3 times with 50 ml of MTB each time. Drying over MgSO4 was followed by removal of the solvent in vacuo. 1.1 g of a colorless oil were obtained.

reactant | 1-dichloromethyl-2-nitro-4-pentafluorosulfanylbenzene | 2.0 g | ClC(C1=C(C=C(C=C1)S(F)(F)(F)(F)F)[N+](=O)[O-])Cl | C7H4Cl2F5NO2S
reactant | NaHCO3 | 100 ml | C(=O)(O)[O-].[Na+]
solvent | DME | 25 ml | COCCOC | C4H10O2
catalyst | Pd/C | 200 mg | [Pd] | Pd
product | 2-Methyl-5-pentafluorosulfanylaniline | 1.1 g | CC1=C(N)C=C(C=C1)S(F)(F)(F)(F)F | C7H8F5NS
